US06235731B1
1) Synthesis of tert-butyl (E)-4-(2-ethoxycarbonylvinyl)piperidine-1-carboxylate
To a solution of 10.7 g (84.4 mM) of oxalyl chloride in 100 ml of tetrahydrofuran was added 12.0 ml (169 mM) of dimethyl sulfoxide dropwise at −78° C. and the mixture was stirred for 5 minutes. Then, a solution of [ ]g ( mM) of tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate in 100 ml of tetrahydrofuran was added dropwise and the mixture was stirred at −78° C. for 15 minutes. To this mixture was added 47.0 ml (338 mM) of triethylamine at −78° C. and the temperature was increased to room temperature. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The resulting crude tert-butyl 4-formylpiperidine-1-carboxylate was not purified but used as it was in the next reaction.

reactant | oxalyl chloride | 84.4 mM, 10.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 169 mM, 12.0 ml | CS(=O)C | C2H6OS
reactant | tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | triethylamine | 338 mM, 47.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl (E)-4-(2-ethoxycarbonylvinyl)piperidine-1-carboxylate | C(C)OC(=O)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C | C15H25NO4
